US04030925
28. 1-[4-(2-Formylhydrazino)-3-methoxyphenyl]-3-(4-methoxyphenyl)thiourea (NA-27)
Procedure (18.) was employed with 1-formyl-2-(4-amino-2-methoxyphenyl)hydrazine (1.2g, 0.006 mole) and 4-methoxyphenyl isothiocyanate (1.1 g, 0.0066 mole). Yield 1.6 g (70%), m.p. 160°-162° C.

reactant | 1-formyl-2-(4-amino-2-methoxyphenyl)hydrazine | 0.006 mole, 1.2g | C(=O)NNC1=C(C=C(C=C1)N)OC | C8H11N3O2
reactant | 4-methoxyphenyl isothiocyanate | 0.0066 mole, 1.1 g | COC1=CC=C(C=C1)N=C=S | C8H7NOS
product | 1-[4-(2-Formylhydrazino)-3-methoxyphenyl]-3-(4-methoxyphenyl)thiourea | C(=O)NNC1=C(C=C(C=C1)NC(=S)NC1=CC=C(C=C1)OC)OC | C16H18N4O3S
